US08232285B2
To a mixture of (R)-2-tert-butoxycarbonylamino-pent-4-ynoic acid (5.0 g, 23.5 mmol) in anhydrous pyridine (20 ml) were added 2-amino-4-chloro-benzoic acid (4.03 g, 23.5 mmol) and triphenyl phosphite (7.40 ml). The reaction mixture was then heated at 55° C. for 16 h. To this was added phenylhydrazine (2.8 ml, 28.2 mmol). The resulting mixture was stirred at 100° C. for 8 h. After the solvent was removed, the residue was purified by flash column (hexane to 20% ethyl acetate in hexane) to give [(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynyl]-carbamic acid tert-butyl ester (5.5 g, 53.4%) as off-white solid. M.p. 155-157° C. [LCMS]: 439 [M+H]. 400 MHz 1H NMR: (DMSO-d6) δ 9.21 and 9.0 (s, s, 1H, rotomers), 8.08 (m, 1H), 7.81 (m, 1H), 7.60 (dd, J=2.0, 6.4 Hz, 1H), 7.31-7.18 (m, 3H), 6.89-6.67 (m, 3H), 5.14-4.97 (m, br, 1H), 2.86 (m, br, 2H), 2.25 (m, 1H), 1.32 (s, 9H).

reactant | (R)-2-tert-butoxycarbonylamino-pent-4-ynoic acid | 23.5 mmol, 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC#C | C10H15NO4
reactant | 2-amino-4-chloro-benzoic acid | 23.5 mmol, 4.03 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | triphenyl phosphite | 7.40 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | phenylhydrazine | 28.2 mmol, 2.8 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | [(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynyl]-carbamic acid tert-butyl ester | 5.5 g, 53.4% | C(C)(C)(C)OC(N[C@H](CC#C)C1=NC2=CC(=CC=C2C(N1NC1=CC=CC=C1)=O)Cl)=O | C23H23ClN4O3
